US04594199
3-[Hydroxy-(4-phenylbutyl)phosphinyl]-3-methylpropionaldehyde
To a solution of 4-phenylbutyl phosphonous acid (0.5 g, 0.0025 mole) in chloroform (15 ml) was added triethylamine (0.77 ml, 0.005 mole), trimethyl silylchloride (0.70 ml, 0.005 mole) and crotonaldehyde (0.23 ml, 0.0025 mole). The reaction mixture was stirred at reflux temperature for 18 hours. The chloroform was removed in vacuo. The residue was diluted with ether and extracted with 5% NaHCO3 solution. The aqueous layer was acidified with concentrated HCl and extracted twice with ether and once with EtOAc. The combined organic phase was washed with water and brine, dried over anhydrous sodium sulphate and the organic solvent removed on a rotavap to produce the title compound as a solid which was dissolved in CH3OH; ether and hexane were added until turbidity. The mixture was kept in a freezer overnight, yield 0.099, m.p. 138° C.

reactant | 4-phenylbutyl phosphonous acid | 0.0025 mole, 0.5 g | C1(=CC=CC=C1)CCCCP(O)O | C10H15O2P
reactant | triethylamine | 0.005 mole, 0.77 ml | C(C)N(CC)CC | C6H15N
reactant | trimethyl silylchloride | 0.005 mole, 0.70 ml | C[Si](C)(C)Cl | C3H9ClSi
reactant | crotonaldehyde | 0.0025 mole, 0.23 ml | C(\C=C\C)=O | C4H6O
solvent | chloroform | 15 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-[Hydroxy-(4-phenylbutyl)phosphinyl]-3-methylpropionaldehyde | OP(=O)(C(CC=O)C)CCCCC1=CC=CC=C1 | C14H21O3P
